US05817693
c) (1RS,2SR,3RS)-3-[2-(3-Carboxyphenyl)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylic acid
Methyl (1RS,2SR,3RS)-3-[2-(3-Carbomethoxyphenyl)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (0.08 g, crude) was dissolved in propan-2-ol (1 ml) and aqueous sodium hydroxide (1M, 1 ml, 1 mmol) added. The mixture was refluxed for 12 hr. then cooled, diluted with water, acidified with 3M-aqueous hydrochloric acid and extracted with ethyl acetate (3×). The combined organic extract was purified by column chromatography on silical-gel (eluant: 30% EtOAc/hexane/5%AcOH) to give the title compound as a colorless solid (20 mg)

reactant | Methyl (1RS,2SR,3RS)-3-[2-(3-Carbomethoxyphenyl)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.08 g | C(=O)(OC)C=1C=C(C=CC1)C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC | C36H34O8
reactant | sodium hydroxide | 1 mmol, 1M, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | propan-2-ol | 1 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | (1RS,2SR,3RS)-3-[2-(3-Carboxyphenyl)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-indane-2-carboxylic acid | 20 mg | C(=O)(O)C=1C=C(C=CC1)C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C34H30O8
